US05316755
2-(2,4,6-Triiodophenoxy)ethylcyclopentane
To a stirred mixture of 2,4,6-triiodophenol (20.36 g, 43.2 mmol) and milled anhydrous potassium carbonate (7.2 g, 52.2 mmol) in 75 ml of dry dimethylformamide was added dropwise over 10 minutes, a solution of 2-cyclopentylethylmethanesulfonate (8.2 g, 42.7 mmol) in 10 ml of dimethylformamide. The mixture was heated at 65° C. under argon overnight and the solvent was then removed under vacuum. The resulting amber residue was partitioned between ethyl acetate (200 ml) and water (30 ml). The aqueous layer was further extracted with ethyl acetate (2×250 ml) and the combined ethyl acetate extracts were treated with decolorizing carbon, dried over magnesium sulfate and passed through a short pad of basic alumina. The filtrate was evaporated under vacuum to give 17.5 g (73%) of the desired product as an amber oil.

reactant | 2,4,6-triiodophenol | 43.2 mmol, 20.36 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | potassium carbonate | 52.2 mmol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-cyclopentylethylmethanesulfonate | 42.7 mmol, 8.2 g | C1(CCCC1)CCCS(=O)(=O)[O-]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(2,4,6-Triiodophenoxy)ethylcyclopentane | 17.5 g, 73% | IC1=C(OCCC2CCCC2)C(=CC(=C1)I)I | C13H15I3O
